US07244776B2
Dimethyl 2,4-dimethoxybenzylidenemalonate
2,4-Dimethoxybenzaldehyde (10.0 g, 0.060 mol), dimethyl malonate (9.5 g, 0.072 mol), piperidine (1.5 g, 0.017 mol), benzoic acid (1.8 g, 0.015 mol) and 100 mL of toluene are stirred at reflux for 5.5 hours under a Dean Stark trap to remove water. After cooling to room temperature, the reaction mixture is partitioned between ethyl acetate and water. The organic layer is washed with 10% hydrochloric acid, water and brine. The resulting solution is dried over anhydrous magnesium sulfate and then concentrated to yield 17.8 g of an orange syrup which is purified by chromatography on silica gel (2:1, heptane:ethyl acetate) to provide 12.8 g of the title compound as a pale yellow solid melting at 71–73° C.

reactant | 2,4-Dimethoxybenzaldehyde | 0.060 mol, 10.0 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | dimethyl malonate | 0.072 mol, 9.5 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | piperidine | 0.017 mol, 1.5 g | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.015 mol, 1.8 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Dimethyl 2,4-dimethoxybenzylidenemalonate | 17.8 g | COC1=C(C=C(C(=O)OC)C(=O)OC)C=CC(=C1)OC | C14H16O6
